US06545009B1
In the same manner as in Example 74, methyl 4-thiocarbamoylbenzoate was reacted with 3-bromoacetyl-2,5-dimethylthiophene to obtain methyl 4-[4-(2,5-dimethyl-3-thienyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 64%. Pale yellow pritsms. Melting point: 109 to 110° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 3-bromoacetyl-2,5-dimethylthiophene | BrCC(=O)C1=C(SC(=C1)C)C | C8H9BrOS
product | methyl 4-[4-(2,5-dimethyl-3-thienyl)-2-thiazolyl]benzoate | Yield: 64% | CC=1SC(=CC1C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1)C | C17H15NO2S2
